US07964608B2
4-Chloro-8-methoxy-quinoline-3-carboxylic acid ethyl ester (300 mg, 1.13 mmol) was treated with ethylamine following general procedure B to afford 4-ethylamino-8-methoxy-quinoline-3-carboxylic acid ethyl ester (220 mg). Thus obtained amino-ester was hydrolyzed to the corresponding acid in quantitative yield using general procedure D and then transformed into the corresponding ethylamide (180 mg) following general procedure E. The above ethylamide (0.65 mmol) was subjected to reaction with methyl chloroformate according to general procedure F to furnish 1,3-diethyl-7-methoxy-1H-pyrimido[5,4-c]quinoline-2,4-dione (20 mg). LCMS: m/z 300 [M+1]+. LCMS: m/z 300 [M+1]+. 1H NMR (400 MHz, CDCl3): δ 9.48 (s, 1H), 7.87 (d, 1H), 7.56 (t, 1H), 7.22 (d, 1H), 4.42 (q, 2H), 4.16 (q, 2H), 4.12 (s, 3H), 1.73 (t, 3H), and 1.33 (t, 3H) ppm.

reactant | 4-Chloro-8-methoxy-quinoline-3-carboxylic acid ethyl ester | 1.13 mmol, 300 mg | C(C)OC(=O)C=1C=NC2=C(C=CC=C2C1Cl)OC | C13H12ClNO3
reactant | ethylamine | C(C)N | C2H7N
product | 4-ethylamino-8-methoxy-quinoline-3-carboxylic acid ethyl ester | 220 mg, quantitative yield | C(C)OC(=O)C=1C=NC2=C(C=CC=C2C1NCC)OC | C15H18N2O3
